US08426647B2
100 mg (0.171 mmol) of 1,1′-Bis(diphenyloxyphosphino)ferrocene were treated with I2 4 mg (16 μmol) and tributylphosphine 170 μL (0.68 mmol) in acetonitrile/THF (1:1 v/v) 1 mL. The mixture was stirred at room temperature for 10 minutes under nitrogen atmosphere before it was quenched with H2O (100 μL). The reaction mixture was diluted with ethyl acetate (10 mL) and was washed with portions of sat. NaHCO3 (3×5 mL). The organic fraction was dried with Na2SO4, filtered and the solvent evaporated under vacuum. The resulting residue was recrystallized from ethanol, the resulting crystals were filtered, washed and dried in vacuum, giving 89 mg (0.160 mmol, 94%) of 1,1′-Bis(diphenylphosphino)ferrocene (dppf).

reactant | 1,1′-Bis(diphenyloxyphosphino)ferrocene | 0.171 mmol, 100 mg | C1(=CC=CC=C1)OP([C-]1C=CC=C1)OC1=CC=CC=C1.[C-]1(C=CC=C1)P(OC1=CC=CC=C1)OC1=CC=CC=C1.[Fe+2]
reactant | tributylphosphine | 0.68 mmol, 170 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | acetonitrile THF | 1 mL | C(C)#N.C1CCOC1
catalyst | I2 | 16 μmol, 4 mg | II | I2
product | 1,1′-Bis(diphenylphosphino)ferrocene | 0.160 mmol, 89 mg, 94% | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2] | InChI=1S/2C17H14P.Fe/c2*1-3-9-15(10-4-1)18(17-13-7-8-14-17)16-11-5-2-6-12-16;/h2*1-14H;/q2*-1;+2
